US07923568B2
To a solution of 2-benzyl-9a-(2-fluoroethyl)-8,9,9a,10-tetrahydroindeno[2,1-e]indazol-7(2H)-one (1.0 g, 2.5 mmol) in 25 mL, of dimethylformamide was added lithium chloride (1.05 g, 25 mmol) and the stirred mixture was heated to 150° C. After heating for 89 hours, the reaction mixture was cooled to room temperature and partitioned between EtOAc and water. The organic phase was washed thoroughly with water (3×) followed by brine and dried over MgSO4. The solution was concentrated under vacuum and the residue chromatographed on silica gel (elution with 15:85 to 75:25 EtOAc/hexanes) to yield 2-benzyl-2,9,10,11-tetrahydro-8,10a-methanoazuleno[2,1-e]indazol-7(8H)-one as a solid.

reactant | 2-benzyl-9a-(2-fluoroethyl)-8,9,9a,10-tetrahydroindeno[2,1-e]indazol-7(2H)-one | 2.5 mmol, 1.0 g | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC1(CCC(C=C13)=O)CCF | C23H21FN2O
reactant | lithium chloride | 25 mmol, 1.05 g | [Cl-].[Li+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-benzyl-2,9,10,11-tetrahydro-8,10a-methanoazuleno[2,1-e]indazol-7(8H)-one | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC12CCC(C(C=C13)=O)C2 | C23H20N2O
